US03987059
A mixture of 32.7 grams (0.203 moles) of 1-methyl-1-cyclohexanecarboxylic acid chloride, 15.2 grams (0.11 mole) of anhydrous potassium carbonate and 21.8 grams (0.203 mole) of o-toluidine in 260 ml. of dry toluene is stirred and refluxed for 2.5 hours. The inorganic salts are removed by filtration and the filtrate is concentrated in vacuuo. The residue yields from diethyl ether-pentane 40.5 grams (87%) of N-(1-methylcyclohexyl carbonyl)-o-toluidine; m.p. 138° C.

reactant | 1-methyl-1-cyclohexanecarboxylic acid chloride | 0.203 moles, 32.7 grams | CC1(CCCCC1)C(=O)Cl | C8H13ClO
reactant | potassium carbonate | 0.11 mole, 15.2 grams | C([O-])([O-])=O.[K+].[K+]
reactant | o-toluidine | 0.203 mole, 21.8 grams | NC=1C(=CC=CC1)C | C7H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-methylcyclohexyl carbonyl)-o-toluidine | CC1(CCCCC1)C(=O)NC=1C(=CC=CC1)C | C15H21NO
